US06127341
N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (594 mg, 3.1 mmol) was added at 0° C. to a solution of (2R)-2-(N-(tert-butoxycarbonyl)-N-methylamino)-3-(2-naphthyl)propionic acid (1.02 g, 3.1 mmol) and 1-hydroxy-7-azabenzotriazole (422 mg, 3.1 mmol) in dichloromethane (10 ml) and N,N-dimethylformamide (5 ml). The reaction mixture was stirred for 20 min at 0° C. A solution of the hydrochloride salt of crude (2S)-6-acetylamino-2-(((2R)-2-(methylamino)-3-phenylpropionyl)amino)hexanoic acid dimethylamide (1.28 g, 3.1 mmol) in dichloromethane (20 ml)and N,N-dimethylformamide (10 ml) and ethyidiisopropylamine (1.59 ml, 9.3 mmol) were added subsequently. The reaction mixture was stirred for 16 h, while it was warming up to room temperature. It was diluted with ethyl acetate (200 ml) and washed with a 10% aqueous sodium hydrogen sulfate solution (150 ml). The aqueous solution was extracted wtih ethyl acetate (3×100 ml). The combined organic layers were washed with a saturated aqueous solution of sodium hydrogen carbonate (200 ml) and dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (120 g), usin dichloromethane/methanol (10:1) as eluent, to give 1.57 g of N-((1R)-1-{N-[(1R)-1-((1S)-5-(acetylamino)-1-(dimethylcarbamoyl)pentylcarbamoyl)-2-phenylethyl]-N-methylcarbamoyl)-2-(2-naphthyl)ethyl)-N-methylcarbamic acid tert-butyl ester.

reactant | N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 3.1 mmol, 594 mg | Cl.CN(CCCN=C=NCC)C
reactant | (2R)-2-(N-(tert-butoxycarbonyl)-N-methylamino)-3-(2-naphthyl)propionic acid | 3.1 mmol, 1.02 g | C(C)(C)(C)OC(=O)N(C)[C@@H](C(=O)O)CC1=CC2=CC=CC=C2C=C1 | C19H23NO4
reactant | 1-hydroxy-7-azabenzotriazole | 3.1 mmol, 422 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | (2S)-6-acetylamino-2-(((2R)-2-(methylamino)-3-phenylpropionyl)amino)hexanoic acid dimethylamide | 3.1 mmol, 1.28 g | CN(C([C@H](CCCCNC(C)=O)NC([C@@H](CC1=CC=CC=C1)NC)=O)=O)C | C20H32N4O3
reactant | ethyidiisopropylamine | 9.3 mmol, 1.59 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | N-((1R)-1-{N-[(1R)-1-((1S)-5-(acetylamino)-1-(dimethylcarbamoyl)pentylcarbamoyl)-2-phenylethyl]-N-methylcarbamoyl)-2-(2-naphthyl)ethyl)-N-methylcarbamic acid tert-butyl ester | 1.57 g | C(C)(C)(C)OC(N(C)[C@H](CC1=CC2=CC=CC=C2C=C1)C(N(C)[C@H](CC1=CC=CC=C1)C(N[C@@H](CCCCNC(C)=O)C(N(C)C)=O)=O)=O)=O | C39H53N5O6
